US08476253B2
1-(2-{Methyl[6-(methylamino)hexanoyl]amino}ethyl)piperidin-4-yl biphenyl-2-ylcarbamate
1-[2-(Methylamino)ethyl]piperidin-4-yl biphenyl-2-ylcarbamate (500 mg, 1.41 mmol) was dissolved in methylene chloride (5 mL), triethylamine (0.236 mL, 1.70 mmol) and 6-bromohexanoyl chloride (0.232 mL, 1.56 mmol) were added under ice cooling, and the mixture was stirred at room temperature for 30 minutes. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate (×3) and washed with saturated sodium chloride solution. The organic layer was dried with anhydrous sodium sulfate, then the solvent was evaporated under reduced pressure, the resulting residue was dissolved in methylene chloride (5 mL), a 40% methyl amine-methanol solution (5.76 mL, 56.4 mmol) was added under ice cooling, and the mixture was stirred at room temperature for 7.5 hours. The solvent of the reaction mixture was evaporated under reduced pressure, and the resulting residue was purified by NH silica gel column chromatography (ethyl acetate:methanol=100:0→10:1, v/v) to give the title compound (574 mg; yield, 85%) as a light yellow oily substance.

reactant | 1-[2-(Methylamino)ethyl]piperidin-4-yl biphenyl-2-ylcarbamate | 1.41 mmol, 500 mg | C1(=C(C=CC=C1)NC(OC1CCN(CC1)CCNC)=O)C1=CC=CC=C1 | C21H27N3O2
reactant | triethylamine | 1.70 mmol, 0.236 mL | C(C)N(CC)CC | C6H15N
reactant | 6-bromohexanoyl chloride | 1.56 mmol, 0.232 mL | BrCCCCCC(=O)Cl | C6H10BrClO
reactant | methyl amine methanol | 56.4 mmol, 5.76 mL | CN.CO
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | Water | O | H2O
product | 1-(2-{Methyl[6-(methylamino)hexanoyl]amino}ethyl)piperidin-4-yl biphenyl-2-ylcarbamate | 574 mg, 85% | C1(=C(C=CC=C1)NC(OC1CCN(CC1)CCN(C(CCCCCNC)=O)C)=O)C1=CC=CC=C1 | C28H40N4O3
